data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_84091_1,[C:1]1([C:6]([H:16])([H:17])[H:18])([C:7]([H:15])([H:19])[H:20])[C:2]([C:3]2([H:11])[C:4]([C:8]([H:21])([H:22])[H:23])([H:12])[C:5]2([H:13])[H:14])([H:10])[O:9]1>>[C:1]1([C:6]([H:16])([H:17])[H:18])([C:7]([H:15])([H:19])[H:20])[C@@:2]([C@@:3]2([H:11])[C@:4]([C:8]([H:21])([H:22])[H:23])([H:12])[C:5]2([H:13])[H:14])([H:10])[O:9]1,61.18815249999827
MR_194250_1,[C:1]([C:2]([C:4]([N:5]([H:11])[H:12])([O:6][C:3]([H:15])([H:16])[H:17])[O:8][H:9])([H:13])[H:14])(=[O:7])[H:10]>>[C:1]([C:2]([C:4]([N:5]([H:11])[H:12])=[O:8])([H:13])[H:14])([O:6][C:3]([H:15])([H:16])[H:17])([O:7][H:9])[H:10],24.150592499948687
MR_292492_0,[C:1]([N:3]([H:8])[H:9])([N:4]([H:10])[H:11])=[C:6](/[C:2]([N:5]([H:12])[H:13])=[N:7]\[H:14])[H:15]>>[C:1]1([N:3]([H:8])[H:9])([N:4]([H:10])[H:11])[C:6]([H:15])=[C:2]([N:5]([H:12])[H:13])[N:7]1[H:14],39.370605000008965
MR_178325_0,[C:1](/[C:5](=[N:7]/[C:2](=[C:4](\[N:3]([H:9])[H:10])[H:11])[O:6][H:8])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C:5]1([H:12])[C:4]([N:3]([H:9])[H:10])([H:11])[C:2]([O:6][H:8])=[N:7]1)([H:13])([H:14])[H:15],43.24479000003663
MR_456129_1,[C:1]([N:3]([H:9])[H:10])(/[C:4](=[C:5](\[C:2]([H:14])([H:15])[H:16])[H:13])[H:12])(/[N:6]=[N:7]\[H:11])[H:8]>>[C:1]1([N:3]([H:9])[H:10])([H:8])[C:4](/[N:6]=[N:7]\[H:11])([H:12])[C:5]1([C:2]([H:14])([H:15])[H:16])[H:13],68.33851499999398
MR_431840_2,[C:1]([C:3]([H:15])([H:16])[H:17])([C:6]([N:5]([C:4]([H:18])([H:19])[H:20])[H:11])=[O:9])([O:7][C:2]([H:12])([H:13])[H:14])[O:8][H:10]>>[C:1]([C:3]([H:15])([H:16])[H:17])([C:6]([N:5]([C:4]([H:18])([H:19])[H:20])[H:11])([O:7][C:2]([H:12])([H:13])[H:14])[O:9][H:10])=[O:8],36.99740000004397
MR_313600_2,[C:1](/[C:3](=[C:4](\[C:2]([H:17])([H:18])[H:19])[N:7]([H:15])[H:16])[N:6]([H:13])[H:14])([N:5]([H:11])[H:12])([O:8][H:9])[H:10]>>[C:1](=[C:3](/[C:4]([C:2]([H:17])([H:18])[H:19])([N:7]([H:15])[H:16])[O:8][H:9])[N:6]([H:13])[H:14])(\[N:5]([H:11])[H:12])[H:10],38.603172500020406
MR_316355_0,[C:1]([C:3](=[C:6]([H:16])[H:17])[O:8][H:9])([C:4]([C:2]([H:13])([H:14])[H:15])=[C:7]([H:18])[H:19])([N:5]([H:11])[H:12])[H:10]>>[C:1](\[C:3]([C:6]([H:11])([H:16])[H:17])([O:8][H:9])[H:10])([C:4]([C:2]([H:13])([H:14])[H:15])=[C:7]([H:18])[H:19])=[N:5]/[H:12],65.22297749997705
MR_443590_0,[C:1](\[C:2]([N:5]([C:6]([C:3]([N:8]([H:14])[H:15])([H:18])[H:19])([C:4]([H:20])([H:21])[H:22])[O:9][H:12])[H:10])([H:16])[H:17])(=[N:7]/[H:13])[H:11]>>[C:1]([C:2]([N:5]([C:6]([C:4]([H:20])([H:21])[H:22])=[O:9])[H:10])([H:16])[H:17])([C:3]([N:8]([H:14])[H:15])([H:18])[H:19])([N:7]([H:12])[H:13])[H:11],56.0081400000216
MR_592538_1,[C:1]([N:8](/[C:5]([C:2]([H:15])([H:16])[H:17])=[N:4]/[O:7][H:10])/[C:6]([C:3]([H:18])([H:19])[H:20])=[N:9]\[H:11])([H:12])([H:13])[H:14]>>[C:1](/[N:8]=[C:5](\[C:2]([H:15])([H:16])[H:17])[N:4](/[C:6]([C:3]([H:18])([H:19])[H:20])=[N:9]\[H:11])[O:7][H:10])([H:12])([H:13])[H:14],45.28291000002724
MR_357151_1,[C@:1]1([N:5]([H:9])[H:10])([H:8])[N:3]([C:4]([C:2]([H:11])([H:12])[H:13])=[O:7])[O:6]1>>[C:1](=[N:3]/[O:6][C:4]([C:2]([H:11])([H:12])[H:13])=[O:7])(\[N:5]([H:9])[H:10])[H:8],34.716437500024426
MR_104100_1,[C:1]1(/[C:5]([N:6]([H:12])[H:13])=[N:8]/[O:7][H:9])([H:10])[C:2]([C:4]([H:16])([H:17])[H:18])([H:11])[C:3]1([H:14])[H:15]>>[C:1]1([H:10])=[C:5]([N:6]([H:12])[H:13])[N:8]([O:7][H:9])[C:2]([C:4]([H:16])([H:17])[H:18])([H:11])[C:3]1([H:14])[H:15],52.71376500002816
MR_672326_1,[C@@:1]([C:2](/[N:8]=[C:5](/[C:4]([H:18])([H:19])[H:20])[N:6]([H:11])[H:12])([H:13])[H:14])([C:3]([H:15])([H:16])[H:17])([N:7][O:9])[H:10]>>[C@@:1]1([C:3]([H:15])([H:16])[H:17])([H:10])[C:2]([H:13])([H:14])[N:8]1[C@@:5]([C:4]([H:18])([H:19])[H:20])([N:6]([H:11])[H:12])[N:7]=[O:9],61.034414999994056
MR_496069_1,[C:1](/[C:3]([O:7][H:10])=[N:8]/[C:2](=[C:5](/[N:4]([H:11])[H:12])[H:13])[O:6][H:9])([H:14])([H:15])[H:16]>>[C:1]([C:3]1[C@@:2]([C@:5]([N:4]([H:11])[H:12])([O:7][H:10])[H:13])([O:6][H:9])[N:8]1)([H:14])([H:15])[H:16],66.64928500001423
MR_20185_0,[C:1]([C:2]([C:5](=[C:6]([H:17])[H:18])[H:13])([H:11])[H:12])([C:4]([C:3]([H:14])([H:15])[H:16])=[O:8])([O:7][H:9])[H:10]>>[C:1]([C:2]([C:4]([C:3]([H:14])([H:15])[H:16])=[O:8])([H:11])[H:12])([C:5](=[C:6]([H:17])[H:18])[H:13])([O:7][H:9])[H:10],67.28807999997088
MR_470030_1,[C:1]1([H:11])([H:12])[C:4]([C:2]([H:15])([H:16])[H:17])([C:6]([N:5]([H:9])[H:10])([H:13])[H:19])[N:8]1[C:7](=[C:3]([H:18])[H:20])[H:14]>>[C:1](/[C:4]([C:2]([H:15])([H:16])[H:17])=[C:6](/[N:5]([H:9])[H:10])[H:13])(/[N:8]=[C:7](/[C:3]([H:18])([H:19])[H:20])[H:14])([H:11])[H:12],41.29389250000415
MR_441292_0,[C:1]([C:3]([H:15])([H:16])[H:17])(/[N:5]=[N:7]/[C:4]([H:18])([H:19])[H:20])([N:6]([C:2]([H:12])([H:13])[H:14])[H:9])[N:8]([H:10])[H:11]>>[C:1]1([C:3]([H:15])([H:16])[H:17])([N:8]([H:10])[H:11])[N:5]([N:7]([C:4]([H:18])([H:19])[H:20])[H:9])[N:6]1[C:2]([H:12])([H:13])[H:14],54.83283249999275
